US07893267B2
6.0 g (30.0 mmol) of 3,5-difluoro-2-nitro-benzoic acid was dissolved in DMF, treated with 8.5 g (60.0 mmol) of MeI and 9.5 g (90.0 mmol) of Na2CO3, and heated at 80° C. for 2 h. Water was added to the reaction mixture, and extraction with EtOAc produced 3,5-difluoro-2-nitro-benzoic acid methyl ester. LCMS: 218 (M+1)+.

reactant | 3,5-difluoro-2-nitro-benzoic acid | 30.0 mmol, 6.0 g | FC=1C(=C(C(=O)O)C=C(C1)F)[N+](=O)[O-] | C7H3F2NO4
reactant | MeI | 60.0 mmol, 8.5 g | CI | CH3I
reactant | Na2CO3 | 90.0 mmol, 9.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3,5-difluoro-2-nitro-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)F)F)[N+](=O)[O-])=O | C8H5F2NO4
